tb_switch_v2.cir - V2: the feedback loop must never open during gain switching
* Models the gain relay as a real contact with real bounce:
*   make  at t = 5 ms  with 3 bounces over 0.7 ms
*   break at t = 25 ms with 2 bounces over 0.4 ms
* RON = 50 mohm, ROFF = 1e12 ohm - i.e. a genuinely open contact, not a
* convenient large resistor.
*
* THE CLAIM UNDER TEST (ADR-004 + V2): because the relay switches R_g to
* ground and R_f is hard-wired, the loop stays closed in EVERY contact state.
* The falsifiable prediction: v(OUT) stays bounded by the +10 dB envelope at
* all times, never approaches a rail, and settles within a few loop time
* constants after each bounce.
*
* The counterfactual (the arrangement ADR-004 rejected) is in
* tb_switch_v2_counterfactual.cir - run both, they are only meaningful
* together.

.include @REPO@/spice/preamp/placeholder_devices.lib
.include @REPO@/spice/preamp/gain_block_flat.inc

VPP VPLUS 0 DC 15
VMM VMINUS 0 DC -15
VSRC SRCN 0 DC 0 SIN(0 0.5 1k)
RSRC SRCN IN 430

* --- the gain relay contact ---
.model RLYSW SW(RON=0.05 ROFF=1E12 VT=2.5 VH=0.5)
SREL RG NRG CTRL 0 RLYSW
RCONT NRG 0 0.001
CSTRAY RG 0 15p
VCTRL CTRL 0 PWL(0 0 4.999m 0 5.000m 5 5.200m 5 5.201m 0 5.400m 0
+ 5.401m 5 5.600m 5 5.601m 0 5.700m 0 5.701m 5 24.999m 5
+ 25.000m 0 25.200m 0 25.201m 5 25.400m 5 25.401m 0 40m 0)

RISO   OUT OUTA 47
COUT   OUTA JACK 4.7u
RBLEED JACK 0 220k
RLOAD  JACK 0 100k

.control
tran 2u 40m 0 2u
wrdata tb_switch_v2_wrdata.txt v(OUT) v(JACK) v(NX) v(NY) v(CTRL) v(FB)
let vmax = maximum(v(OUT))
let vmin = minimum(v(OUT))
let nxmax = maximum(v(NX))
let nymin = minimum(v(NY))
echo "extremes over the whole 40 ms, including both bounce bursts:"
print vmax vmin nxmax nymin
.endc

.end
